US05864039
4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride (2.00 g) as starting compound and 5-(2-naphthylmethoxy)-pentyl chloride (1.88 g) were reacted and treated in the same manner as in Example 168 to give 1.45 g of 4-amino-5-chloro-2-methoxy-N-((1-(5-(2-naphthylmethoxy)pentyl)piperidin-4-yl)methyl)benzamide hydrochloride.

reactant | 4-Amino-5-chloro-2-methoxy-N-(piperidin-4-ylmethyl)benzamide dihydrochloride | 2.00 g | Cl.Cl.NC1=CC(=C(C(=O)NCC2CCNCC2)C=C1Cl)OC
reactant | 5-(2-naphthylmethoxy)-pentyl chloride | 1.88 g | C1=C(C=CC2=CC=CC=C12)COCCCCCCl | C16H19ClO
product | 4-amino-5-chloro-2-methoxy-N-((1-(5-(2-naphthylmethoxy)pentyl)piperidin-4-yl)methyl)benzamide hydrochloride | 1.45 g | Cl.NC1=CC(=C(C(=O)NCC2CCN(CC2)CCCCCOCC2=CC3=CC=CC=C3C=C2)C=C1Cl)OC | InChI=1S/C30H38ClN3O3.ClH/c1-36-29-19-28(32)27(31)18-26(29)30(35)33-20-22-11-14-34(15-12-22)13-5-2-6-16-37-21-23-9-10-24-7-3-4-8-25(24)17-23;/h3-4,7-10,17-19,22H,2,5-6,11-16,20-21,32H2,1H3,(H,33,35);1H
